US06001860
N-[2,4-Bis(methylthio)-6-methylpyridin-3-yl]-N'-(indan-2-yl)-N'-(4-isopropylbenzyl)urea
A solution of 2-(4-isopropylbenzylamino)indane (159 mg, 0.6 mmol) and 2,4-bis(methylthio)-6-methylpyridin-3-yl isocyanate (136 mg, 0.6 mmol) in 3 ml dimethylformamide was heated at 80° C. under nitrogen overnight. The reaction mixture was cooled to room temperature, diluted with 50 ml ethyl acetate and washed with 3×50 ml water, then 50 ml brine, dried (sodium sulfate), filtered and concentrated in vacuo. The solid residue (265 mg) was purified by column chromatography on silica gel (150 g), eluting with 7:3 hexane/ethyl acetate to yield the title compound as a white solid (195 mg, 66% yield).

reactant | 2-(4-isopropylbenzylamino)indane | 0.6 mmol, 159 mg | C(C)(C)C1=CC=C(CNC2CC3=CC=CC=C3C2)C=C1 | C19H23N
reactant | 2,4-bis(methylthio)-6-methylpyridin-3-yl isocyanate | 0.6 mmol, 136 mg | CSC1=NC(=CC(=C1N=C=O)SC)C | C9H10N2OS2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-[2,4-Bis(methylthio)-6-methylpyridin-3-yl]-N'-(indan-2-yl)-N'-(4-isopropylbenzyl)urea | 195 mg, 66% yield | CSC1=NC(=CC(=C1NC(=O)N(CC1=CC=C(C=C1)C(C)C)C1CC2=CC=CC=C2C1)SC)C | C28H33N3OS2
